US06936612B2
8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.0 g, 2.86 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.10 g, 3.95 mmol) were heated to reflux in toluene (10 mL) for 16 hours. The reaction mixture was cooled to room temperature and purified by silica gel chromatography to give 4-[6-(8-cyclopentyl-6-ethoxymethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid (0.140 g, 14.7%). 1H NMR δ (400 MHz, CDCl3) 8.59 (s, 1H), 8.26 (d, J=9.3 Hz, 1H), 7.97 (d, J=2.7 Hz, 1H), 7.6 (t, J=1.5 Hz, 1H), 7.38 (dd, J=2.7, 9.0 Hz, 1H), 5.89 (m, 1H), 4.55 (d, J=1.2 Hz, 1H), 3.66 (q, J=7.1 Hz, 2H), 3.60 (m, 4H), 3.11 (m, 4H), 2.34 (m, 2H), 2.07 (m, 2H), 1.88 (m, 2H), 1.69 (m, 2H), 1.48 (s, 9H), 1.30 (t, J=6.8 Hz, 3H).

reactant | 8-Cyclopentyl-6-ethoxymethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 2.86 mmol, 1.0 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COCC)=O | C16H21N3O3S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 3.95 mmol, 1.10 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(8-cyclopentyl-6-ethoxymethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.140 g, 14.7% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)COCC)=O)C2CCCC2 | C29H39N7O4
